US04870074
Preparation of 2-acetylaminomethylmorpholine
2-Acetylaminomethyl-4-benzylmorpholine (120 g) is dissolved in a mixture of ethanol (1000 ml) and acetic acid (30 ml) and hydrogenated over 10% palladium on carbon (5 g) at about 60° C. After the calculated amount of the hydrogen is absorbed, the catalyst is filtered off. The filtrate is evaporated under reduced pressure to give the title compound as an oil.

reactant | 2-Acetylaminomethyl-4-benzylmorpholine | 120 g | C(C)(=O)NCC1CN(CCO1)CC1=CC=CC=C1 | C14H20N2O2
solvent | ethanol | 1000 ml | C(C)O | C2H6O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 5 g | [Pd] | Pd
product | 2-acetylaminomethylmorpholine | C(C)(=O)NCC1CNCCO1 | C7H14N2O2
